US07244730B2
(Step 2) 1-[3-Amino-5-(tert-butyl)-4-(methoxymethoxy)phenyl]-1-ethanone
After adding 10% palladium-carbon (50% wet) (14 g) to a solution of the 1-[3-(tert-butyl)-4-(methoxymethoxy)-5-nitrophenyl]-1-ethanone (69.4 g, 247 mmol) in toluene (280 ml) at room temperature, the mixture was hydrogenated for 7 hours under normal pressure. The 10% palladium-carbon was removed by celite filtration and the solvent was distilled off under reduced pressure. The residue was recrystallized from hexane to yield the title compound (54.0 g, 87.1% yield) as light green granular crystals.

reactant | 1-[3-(tert-butyl)-4-(methoxymethoxy)-5-nitrophenyl]-1-ethanone | 247 mmol, 69.4 g | C(C)(C)(C)C=1C=C(C=C(C1OCOC)[N+](=O)[O-])C(C)=O | C14H19NO5
solvent | toluene | 280 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium-carbon | 14 g | [C].[Pd]
product | 1-[3-Amino-5-(tert-butyl)-4-(methoxymethoxy)phenyl]-1-ethanone | 54.0 g, 87.1% yield | NC=1C=C(C=C(C1OCOC)C(C)(C)C)C(C)=O | C14H21NO3
